US07084154B2
A mixture of 2-(5-benzyloxy-1H-indol-3-yl)-1-methyl-ethylamine (58 mg, 0.21 mmol), 37% formaldehyde (17 uL, 0.23 mmol) and ethanol (2 ml) was heated in a sealed tube at 80° C. for 2 h. The mixture was cooled to rt and acetic acid (60.6 uL, 1.05 mmol) was added. The mixture was heated again in a sealed tube at 80° C. for 5 h. Evaporation of volatiles yielded 6-benzyloxy-3-methyl-2,3,4,9-tetrahydro-1H-β-carboline (40 mg).

reactant | 2-(5-benzyloxy-1H-indol-3-yl)-1-methyl-ethylamine | 0.21 mmol, 58 mg | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)CC(C)N | C18H20N2O
reactant | formaldehyde | 0.23 mmol, 17 uL | C=O | CH2O
reactant | acetic acid | 1.05 mmol, 60.6 uL | C(C)(=O)O | C2H4O2
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 6-benzyloxy-3-methyl-2,3,4,9-tetrahydro-1H-β-carboline | 40 mg | C(C1=CC=CC=C1)OC=1C=C2C=3CC(NCC3NC2=CC1)C | C19H20N2O
